US06180632B2
2-(6,7-Dimethoxy-quinoxalin-2-yl)-2-aza-bicyclo[2.2.2]octan-3-one
2-Azabicyclo[2.2.2]octan-3-one (228 mg, 2.3 mmole) is dissolved in a mixture of THF/DMF (5 mL/3 mL) and treated with NaH (60%, 184 mg, 4.6 mmole). The resulting mixture is heated at 60° C. for 0.5 hour before addition of 2-chloro-6,7-dimethoxyquinoxaline (344 mg, 1.5 mmole). After being heated at 80° C. overnight, the reaction mixture is concentrated . The residue is chromatographed on silica gel (50% ethyl acetate/hexane) to give 164 mg (23%) of a yellow solid (m.p. 158-159° C.).

reactant | 2-Azabicyclo[2.2.2]octan-3-one | 2.3 mmole, 228 mg | C12NC(C(CC1)CC2)=O | C7H11NO
reactant | NaH | 4.6 mmole, 184 mg | [H-].[Na+]
reactant | 2-chloro-6,7-dimethoxyquinoxaline | 1.5 mmole, 344 mg | ClC1=NC2=CC(=C(C=C2N=C1)OC)OC | C10H9ClN2O2
solvent | THF DMF | 5 mL | C1CCOC1.CN(C)C=O
product | 2-(6,7-Dimethoxy-quinoxalin-2-yl)-2-aza-bicyclo[2.2.2]octan-3-one | 164 mg, 23% | COC=1C=C2N=CC(=NC2=CC1OC)N1C2CCC(C1=O)CC2 | C17H19N3O3
